Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
apples/peaches/cherries / Apricot
 
Attending: ___
 
Chief Complaint:
neck pain, bilateral vertebral artery dissections
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ right-handed woman who is 8
days postpartum (G3P3) who presents with 4 days of worsening 
neck
pain, headache, and hypertension. She was evaluated for
pre-eclampsia and this was felt to be unlikely. CTA neck was
performed and identified bilateral vertebral dissections. 

She delivered a healthy ___ girl on ___ via spontaneous
vaginal delivery. She was in labor for 2 days, initially being
sent home before re-presenting and being admitted. She was
actively laboring on the second day from 10am until 5:39pm and
says those hours involved "intense screaming and straining". Her
___ pregnancy was complicated by postpartum hemorrhage. She had
not had any miscarriages. 

Following delivery she experienced a "major headache" which was
bitemporal, pressure-like, ___ intensity, which resolved with
Tylenol. She has a history of monthly migraine with occasional
aura which was absent during her pregnancy. This headache was
unlike any prior headache in character. 

Following delivery she also became hypertensive up to the 160s
(per patient) and remained in the hospital an extra day for this
reason. Her baseline SBPs during pregnancy were in the 110s. She
was discharged on ___ on nifedipine ER 30mg daily. The
next day she began to experience neck pain ("tension") at the
base of her skull bilaterally, which felt as though she had
"slept wrong" on it. She went to her ___ clinic on ___ 
for
a BP check and noted her new neck stiffness. Over ___ and
___ her neck pain worsened significantly. She purchased a
neck massager from ___ for this, but it did not help. (The
device is a battery-powered "kneading"-type device that is
attached to two straps you hold with your hands and sling behind
your neck to apply pressure.) She took Tylenol for the neck pain
with only mild benefit. 

This morning the neck pain worsened and became "throbbing" in
character so she presented to the ED. She was evaluated for
pre-eclampsia and seen by Ob/Gyn who had low suspicion for this.
CT neck was ordered by the ED team and found bilateral vertebral
dissections. 

She reports that 3 weeks ago she went to a chiropracter for low
back pain and had an "adjustment" of her neck. She said this was
the first time it had ever been done, and afterwards she
experienced significant neck pain lasting for 1 day. 

In the last week she says she has felt very faintly "out of it"
but not lightheaded. She denies vertigo or diplopia. She does 
say
she has been dropping things primarily with her right hand
(though this is her most-used hand), knocking things over, and
spilling liquids while pouring. (It should be noted that her 
neck
pain has limited her ability to turn her neck and look around
normally.) Her neck stiffness has She has felt like her balance
is "off" but she has not had any falls. 

 
Past Medical History:
SEASONAL ALLERGIES                                              

OBGYN HX                                                        
Menstrual History Menses: 14 X  Qmos X  ___   G0P0             

MASTODYNIA                                                      

MIGRAINE HEADACHES                                              
with aura, mentioned as cause of stopping COC in ___ in note
of ___ Dr.  ___                                         

 
___ History:
___
Family History:
FAMILY HISTORY Mother: Healthy. Living. MGM: HTN.     
          Deceased. Father: HTN, stroke, skin cancer. Living.   
          Sis: (2) healthy. Living. no br ov or colon ca ___:   
          (1)healthy. Living.      
 
Physical Exam:
General: Awake, cooperative. Appears moderately uncomfortable. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Stiffness and significant tenderness to palpation of
proximal trapezius muscles bilaterally. 
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

NIHSS Performed within 6 hours of presentation at: 15:00  
NIHSS Total: 0

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact 
comprehension.
and prosody. There were no paraphasic errors. Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to speech. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger and toe-taps
bilaterally. No dysmetria on FNF, able to continue with eyes
closed. No DDS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

 
Pertinent Results:
___ 09:40AM BLOOD Triglyc-144 HDL-69 CHOL/HD-4.0 
LDLcalc-177*
___ 08:19PM BLOOD %HbA1c-4.8 eAG-91

MRI/MRA brain
1. Intramural hematoma with luminal narrowing involving the 
right vertebral artery V2 segment concerning for dissection. 
2. Short-segment intramural hematoma with luminal narrowing 
involving the left vertebral artery V2 segment is also 
concerning for dissection. 
3. Unremarkable MRI of the brain. No evidence of acute 
infarction or 
intracranial hemorrhage. 
4. No evidence of abnormal enhancement. 

 
Brief Hospital Course:
___ recently post-partum with distant hx of neck manipulations 
by a chiropractor, HTN (thought to be gestational) who presents 
with subacute neck pain and headaches, found to have bilateral 
vertebral artery dissections. Normal neurologic exam. MRI did 
not reveal stroke - MRA confirmed dissections. These were 
thought to be due to trauma of childbirth and prolonged labor, 
as chiropractic maneuvers were in distant history. No clear 
clinical evidence of FMD or connective tissue disorders. She was 
started on a full dose aspirin regimen, as well as low does 
atorvastatin for LDL 177 ___s stabilization of any thrombi 
on vessel surface. Plan to follow up as outpatient after 
interval imaging. 

Transitional Issues:
[] stroke follow-up with Dr. ___ in 3 months
[] repeat MRI, MRA with fat sats prior to stroke f/u
[] renal artery Dopplers to r/o fibromuscular dysplasia
[] f/u PCP
[] f/u with OB/Gyn about breast feeding safety with new 
medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine (Extended Release) 30 mg PO DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Loratadine 10 mg PO DAILY:PRN allertgies 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*1 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily, at night Disp 
#*90 Tablet Refills:*1 
3.  Loratadine 10 mg PO DAILY:PRN allertgies  
4.  NIFEdipine (Extended Release) 30 mg PO DAILY  
5.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral vertebral artery dissections, likely traumatic 
following labor and delivery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for headaches and neck pain, 
which were ultimately thought to be due to VERTEBRAL ARTERY 
DISSECTION in both of your vertebral artery. This is a condition 
where typically the arteries are subjected to some kind of 
trauma or due to certain risk factors, including genetics, and 
become injured, leading sometimes to clot formation. Your MRI 
did not reveal any stroke due to this. Over time, the vessel 
walls will heal. We have started you on medications to reduce 
the chance of clot formation, by starting you on an aspirin and 
atorvastatin, to lower your cholesterol. You should follow up 
with Neurology in 3 months, after repeat imaging of your vessels 
and brain.

For neck pain, you can try warm heat packs and tylenol. We 
advise you to avoid strenuous exercise, rapid head movements if 
possible, and avoiding lifting heavy objects. Please talk to 
your OB/GYN regarding the safety of breast milk on aspirin and 
atorvastatin.

It was a pleasure taking care of you.

Sincerely,

___ Neurology
 
Followup Instructions:
___